US07714126B2
With a procedure similar to example 16 above, 5-ethyl-2-phenyl-oxazole-4-carboxylic acid [6-(acetyl-methyl-amino)-pyridin-3-yl]-amide was prepared from 5-ethyl-2-phenyl-oxazole-4-carboxylic acid and N-(5-amino-pyridin-2-yl)-N-methyl-acetamide. LCMS calcd for C20H20N4O3 (m/e) 364, obsd 365 (M+H).

reactant | 5-ethyl-2-phenyl-oxazole-4-carboxylic acid | C(C)C1=C(N=C(O1)C1=CC=CC=C1)C(=O)O | C12H11NO3
reactant | N-(5-amino-pyridin-2-yl)-N-methyl-acetamide | NC=1C=CC(=NC1)N(C(C)=O)C | C8H11N3O
product | 5-ethyl-2-phenyl-oxazole-4-carboxylic acid [6-(acetyl-methyl-amino)-pyridin-3-yl]-amide | C(C)(=O)N(C1=CC=C(C=N1)NC(=O)C=1N=C(OC1CC)C1=CC=CC=C1)C | C20H20N4O3
